US07977342B2
1-Butyl-4-chloro-6-(2-fluoro-phenyl)-3-methyl-1H-pyrazolo[3,4-d]pyrimidine
1-Butyl-6-(2-fluoro-phenyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one (1.23 g, 4.1 mmole) was dissolved in phosphorous oxychloride (15 ml) and heated to reflux overnight. The excess phosphorous oxychloride was removed under vacuum, the residue was treated with ice water, the product was extracted into ethyl acetate, washed with water, saturated sodium chloride, then dried over sodium sulfate (anh.) and the solvent was removed to give the crude product. The product was chromatographed on silica gel eluting with chloroform to give 723 mg of purified product (yield: 55%).

reactant | 1-Butyl-6-(2-fluoro-phenyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 4.1 mmole, 1.23 g | C(CCC)N1N=C(C2=C1N=C(NC2=O)C2=C(C=CC=C2)F)C | C16H17FN4O
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Butyl-4-chloro-6-(2-fluoro-phenyl)-3-methyl-1H-pyrazolo[3,4-d]pyrimidine | 723 mg, yield: 55% | C(CCC)N1N=C(C=2C1=NC(=NC2Cl)C2=C(C=CC=C2)F)C | C16H16ClFN4
